US09403768B2
To a solution of 1-tert-butyl 2-ethyl 3,3-dimethylindoline-1,2-dicarboxylate (0.25 g, 783 μmol, Eq: 1.00) in THF (3.2 mL)/MeOH (1.8 mL) was added lithium hydroxide (126 mg, 5.26 mmol, Eq: 6.72) dissolved in water (1 mL) and the resulting suspension was heated at 50° C. for 36 h. The reaction mixture was concentrated in vacuo and then the residue was taken up in water and washed with diethyl ether. The aqueous layer was then carefully acidified to pH˜3 with 1 M aqueous HCl and extracted with EtOAc. The combined organic layers were concentrated in vacuo to give 1-(tert-butoxycarbonyl)-3,3-dimethylindoline-2-carboxylic acid as a white foam (220 mg), m/z=292 (M+H).

reactant | 1-tert-butyl 2-ethyl 3,3-dimethylindoline-1,2-dicarboxylate | 783 μmol, 0.25 g | CC1(C(N(C2=CC=CC=C12)C(=O)OC(C)(C)C)C(=O)OCC)C | C18H25NO4
reactant | MeOH | 1.8 mL | CO | CH4O
reactant | lithium hydroxide | 5.26 mmol, 126 mg | [OH-].[Li+]
solvent | THF | 3.2 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 1-(tert-butoxycarbonyl)-3,3-dimethylindoline-2-carboxylic acid | 220 mg | C(C)(C)(C)OC(=O)N1C(C(C2=CC=CC=C12)(C)C)C(=O)O | C16H21NO4
